US04423213
Trifluoroacetic acid (6.4 ml) was added to a solution of benzhydryl 7-[2-(1-tert-butoxycarbonylethoxyimino)-2-(2-amino-5-chlorothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (1.6 g) in methylene chloride (3.0 ml) and anisole (1.6 ml) under ice-cooling, and the mixture was stirred at ambient temperature for 1.5 hours. To the reaction mixture was added diisopropyl ether (50 ml), and the precipitates were collected by filtration and added to a mixture of water and ethyl acetate. After adjusting to pH 7.5 with 10% aqueous sodium hydroxide, the separated aqueous layer was adjusted to pH 2.2 with 10% hydrochloric acid and then saturated with sodium chloride, followed by extraction with a mixture of ethyl acetate and tetrahydrofuran (1:1). The extract was washed with a saturated aqueous sodium chloride and then dried over magnesium sulfate. Removal of the solvent gave 7-[2-(1-carboxyethoxyimino)-2-(2-amino-5-chlorothiazol-4-yl)-acetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (0.52 g).

reactant | Trifluoroacetic acid | 6.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzhydryl 7-[2-(1-tert-butoxycarbonylethoxyimino)-2-(2-amino-5-chlorothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 1.6 g | C(C)(C)(C)OC(=O)C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1Cl)N | C34H34ClN5O7S2
reactant | diisopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 3.0 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 1.6 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(1-carboxyethoxyimino)-2-(2-amino-5-chlorothiazol-4-yl)-acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 0.52 g | C(=O)(O)C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)C=1N=C(SC1Cl)N | C17H16ClN5O7S2
